US05447943
A mixture containing crude 3-(2-hydroxymethyl-4-iodophenoxy)-3-methyl-2-butanone (0.84 g, 0.00252 mol) and triphenylphosphine hydrobromide (0.86 g, 0.00252 mol) in acetonitrile (5 ml) was heated at 90° C. for 2.5 hours. After evaporation of the solvent, the crude solid product was washed with ether and dissolved in ethanol (3 ml). Hot isopropyl ether (8 ml) was added until a light precipitate formed, and the solution was left at room temperature overnight. The crystalline product was recovered by filtration to yield 0.77 g (50%) of 2-(1-methyl-2-oxo-propyloxy)-5-iodobenzyltriphenylphosphonium bromide, m.p. 230° C.

reactant | 3-(2-hydroxymethyl-4-iodophenoxy)-3-methyl-2-butanone | 0.00252 mol, 0.84 g | OCC1=C(OC(C(C)=O)(C)C)C=CC(=C1)I | C12H15IO3
reactant | triphenylphosphine hydrobromide | 0.00252 mol, 0.86 g | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(1-methyl-2-oxo-propyloxy)-5-iodobenzyltriphenylphosphonium bromide | 0.77 g, 50% | [Br-].CC(C(C)=O)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)I | InChI=1S/C29H27IO2P.BrH/c1-22(31)23(2)32-29-19-18-25(30)20-24(29)21-33(26-12-6-3-7-13-26,27-14-8-4-9-15-27)28-16-10-5-11-17-28;/h3-20,23H,21H2,1-2H3;1H/q+1;/p-1
